US04149005
1-phenyl-3-amino-2-pyrazoline, copper salt (CuCl) and metallic copper, if any, and/or pyridine, in the form of a suspension or of a solution in the solvent (e.g., ethyl alcohol) are introduced, in the desired amounts (between 5 and 6%), into a reactor equipped with feeding systems for reagents and with an effective stirrer. Stirring is started in an oxygen atmosphere. After about 2 hours, oxidation is concluded and the whole solid is dissolved. The catalyst is filtered, the solvent is distilled under vacuum, and the 1-phenyl-3-aminopyrazole is isolated by extraction with, e.g., n-heptane. Additional 1-phenyl-3-aminopyrazole is recovered by treating the n-heptane extraction residue with diluted hydrochloric acid, followed by neutralization with aqueous NaOH to precipitate the 1-phenyl-3-aminopyrazole. Optionally, the heptane extraction residue diluted with hydrochloric acid can be clarified with animal charcoal, prior to neutralization thereof. As is known, the 1-phenyl-3-aminopyrazoles are an important class of products which are valuable for various industrial uses, such as active intermediates in the preparation of dyestuffs, of sensitive agents for use in photography, and of other fine chemicals.

reactant | 1-phenyl-3-amino-2-pyrazoline | C1(=CC=CC=C1)N1N=C(CC1)N | C9H11N3
reactant | pyridine | N1=CC=CC=C1 | C5H5N
reactant | oxygen | O=O | O2
catalyst | copper | [Cu] | Cu
solvent | ethyl alcohol | C(C)O | C2H6O
product | 1-phenyl-3-aminopyrazole | C1(=CC=CC=C1)N1N=C(C=C1)N | C9H9N3
